US09358231B2
A. 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
To a solution of 4-chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (500 mg, 2.78 mmol) in THF (9 mL) was added NaH (136 mg, 3.42 mmol) at 0° C. After 10 minutes, SEMCl (0.59 mL. 3.33 mmol) was added slowly to the reaction mixture at 0° C. The reaction mixture was warmed to room temperature and stirred for 2 hours after which, it was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (5% to 20% Ethyl acetate/Hexane) as a solvent to afford title compound (810 mg, 94% yield). 1H NMR (600 MHz, CDCl3) δ 10.62 (s, 1H), 8.90 (s, 1H), 7.52 (d, J=3.6 Hz, 1H), 6.84 (d, J=4.2 Hz, 1H), 5.76 (s, 2H), 3.60 (t, J=8.4 Hz, 2H), 0.97 (t, J=8.4 Hz, 2H), 0 (s, 9H).

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 2.78 mmol, 500 mg | ClC1=C2C(=NC=C1C=O)NC=C2 | C8H5ClN2O
reactant | NaH | 3.42 mmol, 136 mg | [H-].[Na+]
reactant | SEMCl | 3.33 mmol, 0.59 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 810 mg, 94% yield | ClC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C14H19ClN2O2Si
